US04113940
2,2,2-Trichloroethyl 2-methyl-7-(2-methylthioacetamido)-3-cephem-4-carboxylate (0.48 g), glacial acetic acid (0.48 ml) and zinc powder (0.48 g) were added to anhydrous dimethylformamide (5 ml), and the mixture was stirred for 1 hour under ice-cooling. After the reaction, zinc powder was filtered off. The filtrate was poured into a mixture of 3% hydrochloric acid (10 ml) and ethyl acetate (10 ml), and the ethyl acetate layer was separated. The aqueous layer was further extracted three times with ethyl acetate (10 ml). The ethyl acetate layer was combined. The combined extract was washed with a saturated sodium chloride aqueous solution and dried over magnesium sulfate, after which the solvent was distilled off under reduced pressure. The obtained residue was crystallized by adding ether and the crystals were collected by filtration and washed with ether to give 2-methyl-7-(2-methylthioacetamido)-3-cephem-4-carboxylic acid (0.29 g), mp 181° to 183° C. (dec.).

reactant | 2,2,2-Trichloroethyl 2-methyl-7-(2-methylthioacetamido)-3-cephem-4-carboxylate | 0.48 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC)=S)=O | C13H15Cl3N2O3S2
reactant | acetic acid | 0.48 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.48 g | [Zn] | Zn
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-methyl-7-(2-methylthioacetamido)-3-cephem-4-carboxylic acid | 0.29 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CC)=S)=O | C11H14N2O3S2
